US06686352B2
10-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-6-methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine
To a suspension of 6-methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine-10-carboxylic acid (1.0 g, 3.4 mmol) in DMF (15 mL) was added 1,1′-carbonyldiimidazole (0.61 g, 3.76 mmol) followed by N-hydroxy-cyclopropanecarboxamidine and the resulting solution was heated at 85° C. for 1.5 h. Then acetic acid (3.4 mL) was added and the resulting mixture heated at 130° C. for 40 min. After cooling, the mixture was evaporated and dissolved n DCM (15 mL). This DCM extract was washed with sodium hydrogen carbonate (saturated solution, 40 mL) and then the aqueous phase was washed with DCM (20 mL). The combined DCM layers were then dried over MgSO4 and evaporated. The residue was recrystallized from ethyl acetate: hexane to afford the product (720 mg, 59%) as white crystals, mp 216-218° C., m/z 356 (M).

reactant | 6-methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine-10-carboxylic acid | 3.4 mmol, 1.0 g | CC1=NCN2C1=CC1=C(C3=C2C(=CC=C3)C(=O)O)N=CN=C1 | C16H12N4O2
reactant | 1,1′-carbonyldiimidazole | 3.76 mmol, 0.61 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-hydroxy-cyclopropanecarboxamidine | ONC(=N)C1CC1 | C4H8N2O
reactant | acetic acid | 3.4 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 10-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-6-methyl-9H-imidazo[1,5-a]pyrimido[5,4-d][1]benzazepine | 720 mg, 59% | C1(CC1)C1=NOC(=N1)C1=CC=CC=2C3=C(C=C4N(C21)CN=C4C)C=NC=N3 | C20H16N6O
